US04596816
A mixture of 2-chloro-3-[2-methyl-4-(2-trifluoromethylphenyl)-5-oxazolyl]propionic acid (2.5 g), sodium acetate (0.62 g), 80% ethanol (50 ml) and 10% paladium-carbon (1.0 g) was subjected to catalytic hydrogenation for 8 hours and then the catalyst was filtered off. The filtrate was concentrated, diluted with water and extracted with ethyl acetate. The ethyl acetate layer was washed with water and dried over anhydrous magnesium sulfate. The solvent was distilled off and iso-propyl ether was added to the residue to give crystals of 2-methyl-4-(2-trifluoromethylphenyl)oxazole-5-propionic acid, yield 1.85 g (82.6%). Recrystallization from ether gave colorless prisms. yield 1.45 g (64.7%), m.p. 118°-119° C.

reactant | 2-chloro-3-[2-methyl-4-(2-trifluoromethylphenyl)-5-oxazolyl]propionic acid | 2.5 g | ClC(C(=O)O)CC1=C(N=C(O1)C)C1=C(C=CC=C1)C(F)(F)F | C14H11ClF3NO3
reactant | sodium acetate | 0.62 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-methyl-4-(2-trifluoromethylphenyl)oxazole-5-propionic acid | CC=1OC(=C(N1)C1=C(C=CC=C1)C(F)(F)F)CCC(=O)O | C14H12F3NO3
